US05457106
Synthesis of 4-[3-(4-phenylbenzoylamino)propylthio]pyridine hydrochloride
To a solution of 1.00 g (4.15 mmol) of 4-(3-aminopropylthio)pyridine dihydrochloride and 2.89 ml (19.9 mmol) of triethylamine in 40 ml of methylene chloride was added 1.08 ml (4.98 mmol) of 4-phenylbenzoyl chloride under ice-cooling with stirring and the mixture was stirred at room temperature for 30 minutes. The reaction solution was washed with an aqueous saturated sodium bicarbonate solution and water and dried. The solvent was distilled off. The residue was purified by column chromatography (eluent: methanol/ethyl acetate=1:10) to obtain the powder which was washed with ether and dried to obtain 980 mg of the desired compound (free base) (67.8%, pale yellow powder), mp: 169.0°-170.0° C.

reactant | 4-(3-aminopropylthio)pyridine dihydrochloride | 4.15 mmol, 1.00 g | Cl.Cl.NCCCSC1=CC=NC=C1
reactant | triethylamine | 19.9 mmol, 2.89 ml | C(C)N(CC)CC | C6H15N
reactant | 4-phenylbenzoyl chloride | 4.98 mmol, 1.08 ml | C1(=CC=CC=C1)C1=CC=C(C(=O)Cl)C=C1 | C13H9ClO
solvent | methylene chloride | 40 ml | C(Cl)Cl | CH2Cl2
product | 4-[3-(4-phenylbenzoylamino)propylthio]pyridine hydrochloride | 980 mg, 67.8% | Cl.C1(=CC=CC=C1)C1=CC=C(C(=O)NCCCSC2=CC=NC=C2)C=C1 | InChI=1S/C21H20N2OS.ClH/c24-21(23-13-4-16-25-20-11-14-22-15-12-20)19-9-7-18(8-10-19)17-5-2-1-3-6-17;/h1-3,5-12,14-15H,4,13,16H2,(H,23,24);1H
